Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine / Tramadol / Demerol / Percocet / morphine / hydrocodone 
/ Gadavist
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
Mr. ___ is a ___ man with history of neuroendocrine 
tumor s/p Whipple and partial hepatectomy, seronegative 
arthropathy presenting with abdominal pain.

The patient reports that he has had abdominal pain since his 
surgery. Over the years, he has had several episodes of acute on 
chronic abdominal pain. About a year ago while in ___, he 
reports that he had debilitating abdominal pain and "diaphgram 
seizures" where he felt like he was suffocating. The pain is 
upper abdomen, primarily epigastric, it does not radiate, no 
relationship to foods (not exacerbated or alleviated by foods). 
He previously kept a diary for over a year and could not 
identify any exacerbating or alleviating factors for his pain.

Over the past ___ weeks he has had worsening epigastric 
abdominal pain. No radiation. As previously, no exacerbating or 
alleviating factors. No nausea, vomiting, changes in bowel 
habits. No fevers or chills. No heartburn or dysphagia. He took 
the dilaudid that he is prescribed, which did not help the pain. 
He presented to his gastroenterologist today for this pain, and 
was referred to ED.

In the ED, vitals: 7 97.8 65 129/88 14 100% RA 
Exam: Abdomen soft, nontender, nondistended.
Labs: WBC 8.3, Hb 12.5; BMP wnl; LFTs including lipase wnl; 
methotrexate ___ <0.04
Imaging:
- EKG: Sinus bradycardia at 58 bpm, LAD, NI, submm-STE in I, 
aVL, V5, V6, consistent with prior
- CT A/P with IV and PO contrast: 
1. No acute intra-abdominal or intrapelvic process which would 
correlate with patient's reported symptoms. No evidence for 
recurrent malignancy.
2. Status post left hepatectomy and Whipple procedure with 
associated postsurgical changes.
Patient given:
___ 15:20 IV Morphine Sulfate 2 mg 
___ 15:20 IV Ondansetron 4 mg 
___ 21:22 IV Morphine Sulfate 2 mg

Of note, patient seen in ___ in liver clinic with persistent 
abdominal pain, thought to possible be due to neuropathic pain. 
Prior abdominal imaging MRI showed persistent patchy enhancement 
throughout the right lobe of the liver compatible with mild 
persistent secondary sclerosing cholangitis, and patient is at 
risk for developing secondary biliary cirrhosis. LFTs checked at 
that visit were unremarkable, and ___ was negative.

On arrival to the floor, the patient reports that his pain is 
improved from an ___ to a ___. He tells me that multiple pain 
medications have been trialed in the past; most narcotics give 
him severe nausea. However, low doses of liquid Dilaudid or IV 
morphine are tolerable and seem to help his pain. He has 
previously also tried muscle relaxants given the spasmodic 
quality to the pain, but these did not help. He has no other 
complaints at present.

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative.
 
Past Medical History:
- Neuroendocrine tumor s/p radical pancreaticoduodenectomy 
(___ procedure)and left lateral hepatic sectionectomy
- Cholangitis, dilated CBD with multiple negative ERCPs
- Seronegative arthropathy (thought to be seronegative 
rheumatoid arthritis or psoriatic arthritis without psoriasis)
- Raynaud's
- GERD
- Non-obstructing Schatzki ring at the GE junction
- S/p cholecystectomy
- S/p repair of right Achilles repair in ___
- S/p left knee arthroscopy ___
- S/p left small finger amputation in ___
- S/p appendectomy
 
Social History:
___
Family History:
Mother died with lung cancer at ___. Grandfather with prostate 
cancer. No known family history of gastrointestinal cancer.
 
Physical Exam:
ADMISSION EXAM:
VITALS: 97.7 134/84 51 16 98 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement 
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation in 
midepigastrium. Bowel sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted; well-healed scar on 
abdomen
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: Pleasant, appropriate affect

DISCHARGE EXAM:
VS: 24 HR Data (last updated ___ @ 759)
    Temp: 98.0 (Tm 98.2), BP: 116/76 (113-122/75-84), HR: 57 
(57-70), RR: 18 (___), O2 sat: 98% (94-98)   
GEN: Alert, NAD
HEENT: NC/AT
NECK: No LAD
CV: RRR, no m/r/g
PULM: CTA B
GI: S/ND, TTP most notable in the epigastrum without any rebound 
or involuntary guarding; BS present
EXT: no ___ edema or calf tenderness 
NEURO: Non-focal
 
Pertinent Results:
ADMISSION LABS:
___ 01:58PM BLOOD WBC-8.3 RBC-4.89 Hgb-12.5* Hct-39.5* 
MCV-81* MCH-25.6* MCHC-31.6* RDW-14.1 RDWSD-41.1 Plt ___
___ 01:58PM BLOOD Neuts-68.8 Lymphs-18.9* Monos-10.6 
Eos-0.8* Baso-0.5 Im ___ AbsNeut-5.71 AbsLymp-1.57 
AbsMono-0.88* AbsEos-0.07 AbsBaso-0.04
___ 01:58PM BLOOD Glucose-101* UreaN-16 Creat-1.0 Na-143 
K-4.9 Cl-104 HCO3-29 AnGap-10
___ 01:58PM BLOOD ALT-24 AST-27 AlkPhos-110 TotBili-0.4
___ 01:58PM BLOOD Albumin-4.1 Calcium-9.6 Phos-2.8 Mg-2.0
___ 01:58PM BLOOD mthotrx-<0.04

DISCHARGE LABS:
___ 06:30AM BLOOD WBC-6.0 RBC-5.37 Hgb-13.9 Hct-43.7 
MCV-81* MCH-25.9* MCHC-31.8* RDW-14.3 RDWSD-41.3 Plt ___
___ 06:30AM BLOOD Glucose-99 UreaN-13 Creat-1.0 Na-144 
K-4.6 Cl-101 HCO3-28 AnGap-15

URINE STUDIES:
___ 04:30PM URINE Color-Straw Appear-Clear Sp ___
___ 04:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

CT A/P - IMPRESSION:
1. No acute intra-abdominal or intrapelvic process which would 
correlate with
patient's reported symptoms.  No evidence for recurrent 
malignancy.
2. Status post left hepatectomy and Whipple procedure with 
associated
postsurgical changes.

EGD - 
- Esophageal hiatal hernia.
- Normal mucosa in the whole stomach.
- Normal mucosa in the whole examined duodenum.
 
Brief Hospital Course:
___ man with history of neuroendocrine tumor s/p Whipple 
and partial hepatectomy, seronegative arthropathy presenting 
with abdominal pain. 
  
# ABDOMINAL PAIN
# HISTORY OF NEUROENDOCRINE TUMOR
# SECONDARY SCLEROSING CHOLANGITIS
Longstanding intermittent symptom since surgery in ___. 
Previous evaluation has been largely unremarkable, and CT A/P in 
the ED without acute process. Labs largely unremarkable. EGD 
unremarkable for source of pain. Suspect that this represents 
neuropathic pain in the setting of prior surgery. The patient 
was instructed to f/u in the pain clinic as scheduled.

# LIGHTHEADEDNESS: Complained of mild dizziness with standing, 
particularly on the day of his EGD. Orthostatics negative. 
Suspect that this was related to mild volume depletion in the 
setting of prolonged NPO status as well as possible pain 
medication effect and/or effect of ramelteon (pt reported that 
symptoms started after getting ramelteon). Symptoms largely 
resolved by the time of discharge.

# SERONEGATIVE ARTHROPATHY: Continued home medications.

# RAYNAUDS: No acute issues.

# GERD: On PPI
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 5 mg PO DAILY 
2. Ursodiol 300 mg PO TID 
3. abatacept 125 mg/mL subcutaneous 1X/WEEK 
4. RABEprazole 20 mg oral DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. pyridoxine (vitamin B6) 25 mg oral DAILY 
7. NIFEdipine (Extended Release) 60 mg PO BID 
8. Hydromorphone (Oral Solution) 1 mg/1 mL 2 mg PO Q6H:PRN Pain 
9. Methotrexate 10 mg PO QSAT 

 
Discharge Medications:
1.  abatacept 125 mg/mL subcutaneous 1X/WEEK  
2.  FoLIC Acid 1 mg PO DAILY  
3.  Hydromorphone (Oral Solution) 1 mg/1 mL 2 mg PO Q6H:PRN Pain 
 
4.  Methotrexate 10 mg PO QSAT  
5.  NIFEdipine (Extended Release) 60 mg PO BID  
6.  PredniSONE 5 mg PO DAILY  
7.  pyridoxine (vitamin B6) 25 mg oral DAILY  
8.  RABEprazole 20 mg oral DAILY  
9.  Ursodiol 300 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic abdominal pain
Neuroendocrine tumor s/p radical pancreaticoduodenectomy 
(Whipple procedure)and left lateral hepatic sectionectomy
Cholangitis, dilated CBD with multiple negative ERCPs
Seronegative arthropathy
Raynaud's
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You presented to the hospital with worsening of your chronic 
abdominal pain. Your labs and imaging were reassuring. You were 
seen by the GI team and had an EGD which did not show any 
concerning findings. You are being discharged home. If it 
important that you follow up with your physicians as below.
 
Followup Instructions:
___